US08013156B2
3,5-dimethyl-1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine (104 mg, 0.34 mmol), dichloromethane (1.0 mL), triethylamine (0.10 mL, 0.43 mmol), and 1-isocyanato-3,5-bis-trifluoromethyl-benzene (0.075 ml, 0.43 mmol) are combined and stirred at room temperature overnight. The reaction mixture was diluted with EtOAc and washed with H2O (1×), sat'd NaHCO3 (2×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product was purified by column chromatography (1:1 hexanes:EtOAc, followed by 1:3 hexanes:EtOAc) to give 63 mg (33%) of 2,6-dimethyl-4-[(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide as a white solid after lyophilization from H2O—AcCN. 1H NMR (CDCl3) 8.67 (d, 2H), 7.91 (s, 2H), 7.53 (s, 1H), 7.36 (d, 2H), 6.74 (s, 1H), 5.51 (s, 2H), 4.31 (m, 2H), 4.10 (d, 2H), 3.11 (dd, 2H), 1.47 (d, 6H) ppm. LC-MS (MH+)=561.

reactant | 3,5-dimethyl-1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine | 0.34 mmol, 104 mg | CC1CN(CC(N1)C)C1=NSN=C1OCC1=CC=NC=C1 | C14H19N5OS
reactant | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
reactant | triethylamine | 0.43 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-3,5-bis-trifluoromethyl-benzene | 0.43 mmol, 0.075 ml | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,6-dimethyl-4-[(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 63 mg, 33% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C(CN(CC1C)C1=NSN=C1OCC1=CC=NC=C1)C)(F)F | C23H22F6N6O2S
